US06107329
(S)-5,7-Difluoro-1H-indole-2-carboxylic acid [1-benzyl-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide
From 5,7-difluoro-1H-indole-2-carboxylic acid and (S)-2-amino-1-(4-hydroxy-piperidin-1-yl)-3-phenyl-propan-1-one. mp 95-110° C.

reactant | 5,7-difluoro-1H-indole-2-carboxylic acid | FC=1C=C2C=C(NC2=C(C1)F)C(=O)O | C9H5F2NO2
reactant | (S)-2-amino-1-(4-hydroxy-piperidin-1-yl)-3-phenyl-propan-1-one | N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=CC=C1 | C14H20N2O2
product | (S)-5,7-Difluoro-1H-indole-2-carboxylic acid [1-benzyl-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide | C(C1=CC=CC=C1)[C@@H](C(=O)N1CCC(CC1)O)NC(=O)C=1NC2=C(C=C(C=C2C1)F)F | C23H23F2N3O3
